US09375000B2
N-[(1S)-1-(4-{3-[3,5-bis(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidin-1-yl)phenyl)-ethyl]cyclopropanecarboxamide (cf. Japanese Patent Application No. 2009-296889) (200 mg) was dissolved in dichloromethane (10 mL), and to the reaction solution was added Fe(salen) (12 mg) and iodosobenzene (98 mg). The resulting mixture was stirred at room temperature for 20 hours. Under reduced pressure, the solvent was distilled off and the residues were purified by silica gel column chromatography to obtain N-[(1S)-1-(4-{3-[3,5-bis(trifluoromethyl)-phenyl]-2-hydroxy-3-(trifluoromethyl)pyrrolidin-1-yl}phenyl)ethyl]cyclopropane-carboxamide (24 mg).

reactant | N-[(1S)-1-(4-{3-[3,5-bis(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidin-1-yl)phenyl)-ethyl]cyclopropanecarboxamide | 200 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C1(CN(CC1)C1=CC=C(C=C1)[C@H](C)NC(=O)C1CC1)C(F)(F)F)(F)F | C25H23F9N2O
reactant | iodosobenzene | 98 mg | I(=O)C1=CC=CC=C1 | C6H5IO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-[(1S)-1-(4-{3-[3,5-bis(trifluoromethyl)-phenyl]-2-hydroxy-3-(trifluoromethyl)pyrrolidin-1-yl}phenyl)ethyl]cyclopropane-carboxamide | 24 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C1(C(N(CC1)C1=CC=C(C=C1)[C@H](C)NC(=O)C1CC1)O)C(F)(F)F)(F)F | C25H23F9N2O2
